US06562828B1
8-Chloro-7-hydroxynaphthalene-2-carbonitrile
To a solution of 7-hydroxynaphthalene-2-carbonitrile (2.23 g) in chloroform (120 ml) was dropwise added tert-butyl hypochlorite (1.64 ml) with ice-cooling, and the mixture was stirred at room temperature for 15 min. After completion of the reaction, the resultant solid was collected by filtration and dried under reduced pressure to give the title compound (1.88 g).

reactant | 7-hydroxynaphthalene-2-carbonitrile | 2.23 g | OC1=CC=C2C=CC(=CC2=C1)C#N | C11H7NO
reactant | tert-butyl hypochlorite | 1.64 ml | ClOC(C)(C)C | C4H9ClO
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Chloro-7-hydroxynaphthalene-2-carbonitrile | 1.88 g | ClC=1C(=CC=C2C=CC(=CC12)C#N)O | C11H6ClNO
